US07049438B2
4-(2,3-methylenedioxyanilino)-7-methoxy-5-(N-methylpiperidin-4-yloxy)quinazoline dihydrochloride
Using an analogous procedure to that described in Example 5, 4-chloro-7-methoxy-5-(N-methylpiperidin-4-yloxy)quinazoline was reacted with 2,3-methylenedioxyaniline (J. Med. Chem., 1979, 22, 1354) to give the title compound, a portion of which was treated with a saturated methanolic ammonia solution. The mixture was filtered and the filtrate was evaporated to give the free base; NMR Spectrum: (CDCl3) 2.0–2.1 (m, 2H), 2.15–2.3 (m, 4H), 2.31 (s, 3H), 2.85 (m, 2H), 3.91 (s, 3H), 6.01 (s, 2H), 6.5 (d, 1H), 6.68 (d, 1H), 6.82 (d, 1H), 6.91 (m, 1H), 8.0 (d, 1H), 8.6 (s, 1H), 9.72 (s, 1H); Mass Spectrum: M+H+ 409.

reactant | 4-chloro-7-methoxy-5-(N-methylpiperidin-4-yloxy)quinazoline | ClC1=NC=NC2=CC(=CC(=C12)OC1CCN(CC1)C)OC | C15H18ClN3O2
reactant | 2,3-methylenedioxyaniline | C1OC2=C(N)C=CC=C2O1 | C7H7NO2
product | 4-(2,3-methylenedioxyanilino)-7-methoxy-5-(N-methylpiperidin-4-yloxy)quinazoline dihydrochloride | Cl.Cl.C1OC2=C(NC3=NC=NC4=CC(=CC(=C34)OC3CCN(CC3)C)OC)C=CC=C2O1 | InChI=1S/C22H24N4O4.2ClH/c1-26-8-6-14(7-9-26)30-19-11-15(27-2)10-17-20(19)22(24-12-23-17)25-16-4-3-5-18-21(16)29-13-28-18;;/h3-5,10-12,14H,6-9,13H2,1-2H3,(H,23,24,25);2*1H
